US05151518
7-methyl isatin [Gassman et al., J. Orq. Chem., 42, 1344 (1977)]was treated with triphenyl bismuth diacetate and copper powder as in example 6 to yield N phenyl 7 methyl isatin.

reactant | 7-methyl isatin | CC=1C=CC=C2C(C(NC12)=O)=O | C9H7NO2
reactant | triphenyl bismuth diacetate | C(C)(=O)O.C(C)(=O)O.C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper | [Cu] | Cu
product | phenyl 7 methyl isatin | C1(=CC=CC=C1)N1C(=O)C(=O)C2=CC=CC(=C12)C | C15H11NO2
